US08580957B2
To a suspension of aluminium chloride (6.97 g, 52.3 mmol) in dichloromethane (DCM) (80 mL) at 0° C. under nitrogen was added 1-methylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate (for a preparation see Intermediate 100) (5.08 g, 13.76 mmol) in DCM (10 mL). The resulting mixture was stirred for 30 min then triethylamine (23.01 mL, 165 mmol) in methanol (8 mL) was slowly added to the mixture. AcOEt (200 mL) was added and the resulting mixture was stirred at room temperature for 15 min. The precipitate formed was filtered off and rinsed with AcOEt then partitioned between a saturated NaHCO3 aqueous solution and DCM (200 mL each). The biphasic mixture was vigorously stirred for 2 h. The two layers were separated and the organic phase was dried using a phase separator then concentrated in vacuo to give a first batch of (2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine. The aqueous layer was treated with another 200 mL of DCM and the resulting biphasic mixture was vigorously stirred for 20 min. The two layers were separated and the organic phase was dried using a phase separator then concentrated in vacuo to give a second batch of (2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine. Both batches were combined to give (2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (3.65 g, 12.7 mmol, 93%) as white solid which was used in the next step without further purification.

reactant | aluminium chloride | 52.3 mmol, 6.97 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-methylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | CC(C)OC(N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)Br)C(C)=O)C)=O | C16H21BrN2O3
reactant | triethylamine | 165 mmol, 23.01 mL | C(C)N(CC)CC | C6H15N
reactant | AcOEt | 200 mL | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | DCM | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 8 mL | CO | CH4O
product | (2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)C | C12H15BrN2O
